US07595398B2
2-[4-(2-Carboxy-phenyl)-thiazol-2-ylcarbamoyl]-pyrrolidine-1-carboxylic acid benzyl ester (IS2277-52, 125 mg, 0.28 mmol) was dissolved in 4 mL of DMF. To this solution was added HATU (160.9 mg, 0.42 mmol) and DIEA (0.05 mL, 0.36 mmol). This solution was stirred at room temperature for 1 hour. To this solution was added 48.2 mg (0.28 mmol) of 3-amino-azetidine-1-carboxylic acid tert-butyl ester. Reaction mixture was stirred at room temperature overnight to yield crude 2-{4-[4-(1-tert-butoxycarbonyl-azetidin-3-ylcarbamoyl)-phenyl]-thiazol-2-ylcarbamoyl}-pyrrolodine-1-carboxylic acid benzyl ester, which was then purified using reverse phase HPLC. The purified material was dissolved in 4 mL of 1:1 solution of CH2Cl2/TFA and stirred for 1.5 hours at room temperature. Reaction mixture was evaporated under reduced pressure to give pure desired product. MS: 506.1 (M+H+); H1 NMR (DMSO-d6): δ(ppm) 12.50 (br s, 1H), 8.47 (br s, 1H), 7.91 (m, 5H), 7.10 (m, 4H), 5.31 (br s, 1H), 5.02 (m, 2H), 4.51 (m, 1H), 4.08 (m, 3H), 2.47 (m, 3H), 2.23 (m, 1H), 1.90 (m, 4H), 1.94 (m, 2H).

reactant | 2-[4-(2-Carboxy-phenyl)-thiazol-2-ylcarbamoyl]-pyrrolidine-1-carboxylic acid benzyl ester | 0.28 mmol, 125 mg | C(C1=CC=CC=C1)OC(=O)N1C(CCC1)C(NC=1SC=C(N1)C1=C(C=CC=C1)C(=O)O)=O | C23H21N3O5S
reactant | HATU | 0.42 mmol, 160.9 mg | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=N2)N=N1.F[P-](F)(F)(F)(F)F
reactant | DIEA | 0.36 mmol, 0.05 mL | CCN(C(C)C)C(C)C | C8H19N
reactant | 3-amino-azetidine-1-carboxylic acid tert-butyl ester | 0.28 mmol, 48.2 mg | C(C)(C)(C)OC(=O)N1CC(C1)N | C8H16N2O2
solvent | DMF | 4 mL | CN(C)C=O | C3H7NO
product | 2-{4-[4-(1-tert-butoxycarbonyl-azetidin-3-ylcarbamoyl)-phenyl]-thiazol-2-ylcarbamoyl}-pyrrolodine-1-carboxylic acid benzyl ester | C(C1=CC=CC=C1)OC(=O)N1C(CCC1)C(NC=1SC=C(N1)C1=CC=C(C=C1)C(NC1CN(C1)C(=O)OC(C)(C)C)=O)=O | C31H35N5O6S
